US09302996B2
In tetrahydrofuran (75 mL) was dissolved methyl 5-chloropyrazin-2-carboxylate (2.589 g), 1M diisobutyl aluminum hydride-tetrahydrofuran solution (30 mL) was added dropwise to the solution at 0° C., and the mixture was stirred at the same temperature for 15 minutes. To the mixture were added water and 1N hydrochloric acid, then, a saturated aqueous sodium bicarbonate solution was added to the same to make the pH to 7. The mixture was filtered through Celite, and then, extracted with chloroform 3 times. The organic layer was separated, dried over anhydrous sodium sulfate, and the residue obtained by concentrating the same under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10 to 65:35 to 50:50) to obtain (5-chloropyrazin-2-yl)methanol (465 mg).

reactant | methyl 5-chloropyrazin-2-carboxylate | 2.589 g | ClC=1N=CC(=NC1)C(=O)OC | C6H5ClN2O2
reactant | diisobutyl aluminum hydride tetrahydrofuran | 1M, 30 mL | [H-].C(C(C)C)[Al+]CC(C)C.O1CCCC1
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | (5-chloropyrazin-2-yl)methanol | 465 mg | ClC=1N=CC(=NC1)CO | C5H5ClN2O
